US04122265
A suspension of 14.4 g. of 5-chloro-2-methyl-3-phenylisoindole-1-carboxylic acid (3-chloropropyl)amide in 80 ml. of dimethylformamide is treated with 5.2 g. of sodium azide and the mixture is stirred at 60° C. for 4 hours. The mixture is cooled and poured on to 500 ml. of ice-water. The separated product is removed by filtration under suction, washed with water and dissolved in methylene chloride. The organic solution is washed with a saturated aqueous sodium chloride solution, dried over sodium sulfate and evaporated. The solid residue is triturated with a small amount of ether and filtered, whereby there is obtained 5-chloro-2-methyl-3-phenylisoindole-1-carboxylic acid (3-azidopropyl)amide having a melting point of 143°-146° C. (decomposition) which can be used in the process without further purification. An analytical sample is obtained by recrystallization from methanol and has a melting point of 148°-150° C. (decomposition).

reactant | 5-chloro-2-methyl-3-phenylisoindole-1-carboxylic acid (3-chloropropyl)amide | ClCCCNC(=O)C=1N(C(=C2C=C(C=CC12)Cl)C1=CC=CC=C1)C | C19H18Cl2N2O
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 5-chloro-2-methyl-3-phenylisoindole-1-carboxylic acid (3-azidopropyl)amide | N(=[N+]=[N-])CCCNC(=O)C=1N(C(=C2C=C(C=CC12)Cl)C1=CC=CC=C1)C | C19H18ClN5O
